US08859773B2
Step 5: 1-(4-methoxybenzylamino)isoquinoline-7-carboxylic acid
To a solution of ethyl 1-(4-methoxybenzylamino)isoquinoline-7-carboxylate (430 mg, 1.28 mmol) in methanol (8.5 mL) was added 6 N aqueous sodium hydroxide (1.1 mL, 6.4 mmol). The reaction was stirred at room temperature overnight. The reaction was concentrated. The residue was taken up in water and acidified with 1 N aqueous hydrochloric acid until a precipitate formed. The solid was collected by filtration and dried under vacuum to give the title compound (328 mg, 83%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6, δ): 8.92 (s, 1H), 8.30 (t, J=5.8 Hz, 1H), 8.06 (dd, J=8.4, 1.4 Hz, 1H), 7.88 (d, J=5.7 Hz, 1H), 7.69 (d, J=8.6 Hz, 1H), 7.24-7.31 (m, 2H), 6.88 (d, J=5.7 Hz, 1H), 6.79-6.85 (m, 2H), 4.62 (d, J=5.9 Hz, 2H), 3.67 (s, 3H).

reactant | ethyl 1-(4-methoxybenzylamino)isoquinoline-7-carboxylate | 1.28 mmol, 430 mg | COC1=CC=C(CNC2=NC=CC3=CC=C(C=C23)C(=O)OCC)C=C1 | C20H20N2O3
reactant | sodium hydroxide | 6.4 mmol, 6 N, 1.1 mL | [OH-].[Na+]
solvent | methanol | 8.5 mL | CO | CH4O
product | 1-(4-methoxybenzylamino)isoquinoline-7-carboxylic acid | 328 mg, 83% | COC1=CC=C(CNC2=NC=CC3=CC=C(C=C23)C(=O)O)C=C1 | C18H16N2O3
